US07557103B2
B. 3-(1,5-dimethyl-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
A solution of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.10 g, 0.29 mmol), 1,5-dimethyl-1H-indole-2-boronic acid (0.060 g, 0.32 mmol), 2M Na2CO3 (0.22 mL, 0.44 mmol), and n-PrOH (1.5 mL) is degassed with nitrogen for 10 minutes. Pd(OAc)2 (0.0013 g, 0.0058 mmol), and PPh3 (0.0046 g, 0.017 mmol) are added and the solution is heated at a reflux for two days. The solution is diluted with CH2Cl2 (50 mL), washed with 10% Na2CO3 (30 mL), water (30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated. The material is purified by ISCO (30%-50% EtOAc gradient) to furnish the title compound (0.010 g, 0.028 mmol, 10%). 1H NMR (CDCl3), δ 0.90 (t, J=7.5 Hz, 6H), 1.75-1.95 (m, 4H), 2.48 (s, 3H), 2.49 (s, 3H), 2.51 (s, 3H), 3.32-3.41 (m, 1H), 3.58 (s, 3H), 6.59 (s, 1H), 6.70 (s, 1H), 7.12 (dd, J=8.4, 1.8 Hz, 1H), 7.31 (d, J=8.4 Hz, 1H), 7.47 (s, 1H) ppm. LC/MS (m/z): calcd. for C23H28N4 (M+H)+: 361.6; found: 361.2.

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.29 mmol, 0.10 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | 1,5-dimethyl-1H-indole-2-boronic acid | 0.32 mmol, 0.060 g | CN1C(=CC2=CC(=CC=C12)C)B(O)O | C10H12BNO2
reactant | Na2CO3 | 0.44 mmol, 2M, 0.22 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.017 mmol, 0.0046 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.0058 mmol, 0.0013 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | n-PrOH | 1.5 mL | C(CC)O | C3H8O
product | 3-(1,5-dimethyl-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.028 mmol, 0.010 g, 10% | CN1C(=CC2=CC(=CC=C12)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C23H28N4
